US05519016
In 290 ml of acetic acid were dissolved 26.4 g (0.168 mole) of 2-fluoro-6-nitrophenol and 17.2 g (0.168 mole) of acetic anhydride, and 3.0 g of 5 % palladium carbon was added thereto. Hydrogen gas was passed through the mixture, with stirring, at room temperature for 2 hours. After the reaction mixture had been filtered and the filtrate concentrated under reduced pressure, the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was applied to silica gel column chromatography (the eluent used was a mixture of ethyl acetate : toluene = 1 : 2) to obtain 25.9 g of 2-acetylamino-6-fluorophenol as brown crystals.

reactant | 2-fluoro-6-nitrophenol | 0.168 mole, 26.4 g | FC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | acetic anhydride | 0.168 mole, 17.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hydrogen | [H][H] | H2
solvent | acetic acid | 290 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 3.0 g | [C].[Pd]
product | 2-acetylamino-6-fluorophenol | 25.9 g | C(C)(=O)NC1=C(C(=CC=C1)F)O | C8H8FNO2
